US05656648
E) 2,5-Dimethoxytoluene
A mixture of 12 g of methylhydroquinone, 45 g of potassium carbonate and 45 g of dimethyl sulphate in 300 ml of anhydrous acetone is heated to reflux for 4 days. After cooling, the reaction mixture is filtered and the filtrate is evaporated under vacuum. The residue is taken up in 150 ml of concentrated aqueous ammonia, the mixture is left stirring for 2 hours, diluted with water and extracted with DCM, the organic phase is dried over magnesium sulphate and the solvent is evaporated off under vacuum. The residue is chromatographed on silica H, eluting with a heptane/DCM (50:50; v/v) mixture. 12 g of the expected product are obtained.

reactant | methylhydroquinone | 12 g | CC1=C(O)C=CC(=C1)O | C7H8O2
reactant | potassium carbonate | 45 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 45 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 2,5-Dimethoxytoluene | 12 g | COC1=C(C=C(C=C1)OC)C | C9H12O2
